US07547701B2
Methyl 3-(2-chlorophenyl)-2(S)-(2,2,2-trifluoro-1(RS)-phenylethylamino)-propionate was dissolved in a mixture of MeOH (2 mL) and THF (5 mL) and IN NaOH (4 mL) was added and the reaction mixture was stirred at room temperature for 4 h. The solvent was evaporated using a rotavap and the pH was adjusted to 6 using 1N HCl. The precipitated yellow solid was filtered and dried to give 3-(2-chlorophenyl)-2(S)-(2,2,2-trifluoro-1(RS)-phenylethylamino)propionic acid (500 mg).

reactant | Methyl 3-(2-chlorophenyl)-2(S)-(2,2,2-trifluoro-1(RS)-phenylethylamino)-propionate | ClC1=C(C=CC=C1)C[C@@H](C(=O)OC)NC(C(F)(F)F)C1=CC=CC=C1 | C18H17ClF3NO2
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaOH | 4 mL | [OH-].[Na+]
product | 3-(2-chlorophenyl)-2(S)-(2,2,2-trifluoro-1(RS)-phenylethylamino)propionic acid | 500 mg | ClC1=C(C=CC=C1)C[C@@H](C(=O)O)NC(C(F)(F)F)C1=CC=CC=C1 | C17H15ClF3NO2
